US07432284B2
A solution of 2-allyl-2-butyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone (931 mg, 3.4 mmol) in acetonitrile (10 mL) was treated with benzoquinone (553 mg, 5.12 mmol), palladium(II) acetate (155 mg, 0.69 mmol), water (0.50 mL, 28 mmol), and perchloric acid (70%, ˜0.14 mL, 1.6 mmol). The resulting mixture was stirred overnight at room temperature. The mixture was partitioned between CH2Cl2 (200 mL) and water (100 mL) and the aqueous phase was back-extracted with CH2Cl2 (2×75 mL). The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue (1.17 g) was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4×7 cm) silica gel column, eluting with 10:1 to 5:1 hexane-EtOAc. The product-containing fractions were evaporated under vacuum to afford 2-butyl-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-1(2H)-naphthalenone as an oil.

reactant | 2-allyl-2-butyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone | 3.4 mmol, 931 mg | C(C=C)C1(C(C2=CC=C(C=C2CC1)OC)=O)CCCC | C18H24O2
reactant | benzoquinone | 5.12 mmol, 553 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | water | 28 mmol, 0.50 mL | O | H2O
reactant | perchloric acid | 1.6 mmol, ˜0.14 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.69 mmol, 155 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-butyl-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-1(2H)-naphthalenone | C(CCC)C1(C(C2=CC=C(C=C2CC1)OC)=O)CC(C)=O | C18H24O3
